US05247085
b) 6-Chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]-2-formamidopurine
A solution of 4-chloro-6-[2-(diethoxyphosphorylmethoxy) ethoxyamino]-2,5-diformamidopyrimidine (2.8 g, 6.6 mmol) in diethoxymethyl acetate (20 ml) was heated at 120° C. for 2 hours. After cooling to ambient temperature, excess solvent was removed under reduced pressure, the residue dissolved in methanol (20 ml) and 0.880 ammonia (6.5 ml) and the solution stirred at ambient temperature for 1 hour. The solvent was evaporated to leave an oil which was chromatographed on silica gel (eluted with dichloromethane: methanol, 98.2) to give the title compound as a pale yellow oil (2.4 g, 90%). IR: νmax (film) 3480, 3120, 2995, 1710, 1610, 1580, 1510, 1440, 1390, 1330, 1240, 1050, 1030, 970, 920, 780 cm-1 ; 1H NMR δH [(CD3)2SO] 1.23 (6H, t, J=7 Hz, (OCH2CH3)2), 3.87 (2H, d, J=8 Hz, OCH 2P), 3.87 (2H, m, N-OCH2CH2), 4.03 (4H, m, (OCH2CH3)2), 4.56 (2H, m, N-OCH2CH2), 8.75 (1H, s, H-8), 9.38 (1H, br.s, CHO), 11.30 (1H, br.s, D2O exchangeable NHCHO). Found: C, 38.19; H, 4.79; N, 16.74%. C13H19N5O6PCl requires: C, 38.29; H, 4.70; N, 17.17%. Found: m/z 408.0827 (MH+). C13H20N5O6PCl requires: m/z 408.0840 (MH+).

reactant | 4-chloro-6-[2-(diethoxyphosphorylmethoxy) ethoxyamino]-2,5-diformamidopyrimidine | 6.6 mmol, 2.8 g | ClC1=NC(=NC(=C1NC=O)NOCCOCP(=O)(OCC)OCC)NC=O | C13H21ClN5O7P
solvent | diethoxymethyl acetate | 20 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 6-Chloro-9-[2-(diethoxyphosphorylmethoxy)ethoxy]-2-formamidopurine | 2.4 g, 90% | ClC1=C2N=CN(C2=NC(=N1)NC=O)OCCOCP(=O)(OCC)OCC | C13H19ClN5O6P
